US07592358B2
19.1b. 5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridin-3-ylamine
The product was obtained analogously to Example 7.1b starting from 2-bromo-5-(4-chlorophenyl)pyridin-3-ylamine (Example 16.1c) and trimethylsilylacetylene. Yield: 1.09 g (51% of theoretical); C16H17ClN2Si (M=300.858); calc.: molpeak (M+H)+: 301/303 (Cl); found: molpeak (M+H)+: 301/303 (Cl).

reactant | 2-bromo-5-(4-chlorophenyl)pyridin-3-ylamine | BrC1=NC=C(C=C1N)C1=CC=C(C=C1)Cl | C11H8BrClN2
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
product | 5-(4-chlorophenyl)-2-trimethylsilanylethynylpyridin-3-ylamine | ClC1=CC=C(C=C1)C=1C=C(C=NC1)NC#C[Si](C)(C)C | C16H17ClN2Si
